datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]1[H:17])[H:10])[H:9]>>[C:0]1([H:9])=[C:1]([H:10])[C:2]2([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])[C:8]12[H:17],71.5464
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])([C:10]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:13].[C:7](=[C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])[H:12],0.0
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[S:6]=[C:7][S:8][H:9]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7](=[S:6])[S:8][H:9],49.7896
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[H:11][H:12]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:12])[H:6].[H:11],107.947
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])([c:9]1[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[H:26])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:18])[H:3].[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[c:9]1[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[H:26])([H:15])([H:16])[H:17],27.6144
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]#[C:7][H:8]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][C:6]#[C:7][H:8],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])[H:8])([H:6])[H:7],31.8402
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8]1([H:14])[C:9]([H:15])([H:16])[C:10]([H:17])([H:18])[C:11]([H:19])([H:20])[C:12]([H:21])([H:22])[C:13]1([H:23])[H:24]>>[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[C:8]1([H:14])[C:9]([H:15])([H:16])[C:10]([H:17])([H:18])[C:11]([H:19])([H:20])[C:12]([H:21])([H:22])[C:13]1([H:23])[H:24],0.0
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12])[H:4],27.4889
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:8])[H:9],22.4262
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:23])[H:5].[C:12]([C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:24])([H:20])([H:21])[H:22],36.4008
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:11],176.732
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](#[C:6][C:7]([C:8]#[C:9][H:12])[H:11])[H:10]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6]#[C:5][H:10])([C:8]#[C:9][H:12])[H:11],23.8488
[N:0]([C:1]=[O:2])([H:3])[H:4].[O:5][H:6]>>[H:3][O:5][H:6].[N:0](=[C:1]=[O:2])[H:4],0.0
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])=[C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])[C:7]1([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:10],145.896
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]=[C:9]([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:10])=[C:9]([H:11])[H:12],67.5716
[C:5]([H:6])([H:7])[H:8].[O:0]=[C:1]([S:2][H:4])[H:3]>>[O:0]=[C:1][H:3].[S:2]([H:4])[C:5]([H:6])([H:7])[H:8],44.183
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5]([C:6]([H:18])[H:19])([O:7][O:8][H:17])[H:16])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11],140.164
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[S:9])[H:10]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8](=[S:9])[H:10],43.0952
